US07037916B2
A freshly prepared solution of sodium methoxide (prepared by dissolving sodium (0.46 g, 20 mmol) in MeOH (5 mL)) was added very slowly via a double ended needle to a solution of 3-furaldehyde (1.73 mL, 20 mM) and nitromethane (1.08 mL, 20 mmol) in MeOH (4 mL) cooled to 0° C. The mixture was stirred at 0° C. an addition 5 min, then Et2O (10 mL) was added. The resultant salt was collected via filtration, thoroughly washed with Et2O, taken up in a minimum amount of water then the solution was added to an ice cold solution of 25% HCl (80 mL). The solid that formed was collected by filtration and washed with water, then the moist product was taken up in CHCl3/MeOH and solvents removed to give 3-(2-nitrovinyl) furan (69%) as a pale yellow solid.

reactant | sodium methoxide | 20 mmol, 5 mL, 0.46 g | C[O-].[Na+]
reactant | 3-furaldehyde | 20 mM, 1.73 mL | O1C=C(C=C1)C=O | C5H4O2
reactant | nitromethane | 20 mmol, 1.08 mL | [N+](=O)([O-])C | CH3NO2
reactant | Et2O | 10 mL | CCOCC | C4H10O
solvent | MeOH | 4 mL | CO | CH4O
product | 3-(2-nitrovinyl) furan | 69% | [N+](=O)([O-])C=CC1=COC=C1 | C6H5NO3
